US05242933
3-(4-Hydroxy-1-methylpiperid-4-yl)quinoline
95.01 g of 3-bromoquinoline were treated with 200 ml of a 2.5M solution of butyllithium in hexane and 51.62 g of 1-methylpiperid-4-one in accordance with the procedure described in Stage A of Example 1, in order to obtain the expected product.

reactant | 3-bromoquinoline | 95.01 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | butyllithium | C(CCC)[Li]
reactant | 1-methylpiperid-4-one | 51.62 g | CN1CCC(CC1)=O | C6H11NO
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Hydroxy-1-methylpiperid-4-yl)quinoline | Yield: 53.84% | OC1(CCN(CC1)C)C=1C=NC2=CC=CC=C2C1 | C15H18N2O
